US05571932
In a 1 l three necked flask, equipped with magnetic stirrer, thermometer, dropping funnel, and connected through a Vigreux column and a condenser to a trap maintained at -75° C., 80.0 g of zinc powder, activated by washing with HCl3N, 550 ml of DMF and 50 mg of KI were charged under nitrogen atmosphere. The internal temperature was brought to 80° C. and 102.0 g of 1,1,2,2-tetrachloro-1-fluoro-2-trifluoromethoxyethane (377m moles), were added dropwise. During the addition, he temperature increased up to 90° C. When the addition was over, the reaction mixture was stirred for 1 additional hour a 90° C. In the cold trap 62.8 g (315 mmoles) of 1,2-dichloro-1-fluoro-2-trifluoromethoxyethane (cis/trans 50%/50%) condensed. The 1,2-dichloro-1-fluoro-2-trifluoromethoxyethene (trans+cis) yield was 83%.

reactant | 1,2-dichloro-1-fluoro-2-trifluoromethoxyethane | 315 mmoles, 62.8 g | ClC(C(OC(F)(F)F)Cl)F | C3H2Cl2F4O
catalyst | zinc | 80.0 g | [Zn] | Zn
product | 1,2-dichloro-1-fluoro-2-trifluoromethoxyethene | yield was 83% | ClC(=C(OC(F)(F)F)Cl)F | C3Cl2F4O
